US07259266B2
Step 1 Preparation of ethyl 6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of 10 g (72.5 mmol) of 2,4-dihydroxybenzaldehyde, 15.3 mL (101.4 mmol) of ethyl 4-triflouromethylcrotonate, and 20 g (145 mmol) of potassium carbonate in 25 mL of anhydrous dimethylformmamide was heated to 90° C. for three h. After cooling to room temperature, the reaction was added to 500 mL of ethyl acetate. The organic phase was washed with brine three times, dried over anhydrous magnesium sulfate and concd in vacuo. Silica chromatography with EtOAc/hexane (3:7) gave 19.0 g (98%) of a yellow solid: 1H NMR (CDCl3/400 MHz) 7.63 (s, 1H), 6.85(d, J=8.8 Hz, 1H), 6.79(dd, J=8.8 Hz, 2.8 Hz, 1H), 6.70(d, J=2.8 Hz, 1H), 5.63(q, J=6.8 Hz, 1H), 4.31(m, 2H), 1.34(t, J=7.2 Hz, 3H). MS (ESI+) 289.1 (M+1, 100).

reactant | 2,4-dihydroxybenzaldehyde | 72.5 mmol, 10 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | ethyl 4-triflouromethylcrotonate | 101.4 mmol, 15.3 mL | FC(C/C=C/C(=O)OCC)(F)F | C7H9F3O2
reactant | potassium carbonate | 145 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 19.0 g, 98% | OC=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC | C13H11F3O4
